US07495103B2
5-Amino-4-fluoro-2-(1-methylcyclohexyl)phenol (C-13) was synthesized following the general scheme above starting from 4-fluorophenol and 1-methylcyclohexanol. Overall yield (3%). HPLC ret. time 3.00 min, 10-99% CH3CN, 5 min run; ESI-MS 224.2 m/z (MH+).

reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 1-methylcyclohexanol | CC1(CCCCC1)O | C7H14O
reactant | CH3CN | CC#N | C2H3N
product | 5-Amino-4-fluoro-2-(1-methylcyclohexyl)phenol | NC=1C(=CC(=C(C1)O)C1(CCCCC1)C)F | C13H18FNO
